US06307047B1
2-(3,4-Difluorophenyl)-4-[2-(2-propoxy)ethoxy]-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 384, substituting 2-(3,4-difluorophenyl)-4-[2-(2-propoxy)ethoxy]-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-benzyl-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 110 mg, 34%). mp 54-56° C. 1H NMR (300 MHz, DMSO-d6) δ 1.0 (d, 6H), 3.43 (m, 1H), 3.54 (m, 2H), 4.63 (m, 2H), 7.5 (m, 3H), 7.6 (m, 1H), 7.8 (m, 1H), 7.95 (m, 4H), 8.2 (s, 1H). MS (DCI/NH3) m/z 466 (M+H)+, 483 (M+NH4)+. Anal. calc. for C21H21F2N3O5S: C, 54.19; H, 4.55; N, 9.03. Found, C, 54.29; H, 4.67; N, 8.95.

reactant | 2-(3,4-difluorophenyl)-4-[2-(2-propoxy)ethoxy]-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCCOC(C)C)C1=CC=C(C=C1)S(=O)(=O)C | C22H22F2N2O5S
reactant | NH3 | N | H3N
product | 2-(3,4-Difluorophenyl)-4-[2-(2-propoxy)ethoxy]-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCCOC(C)C)C1=CC=C(C=C1)S(=O)(=O)N | C21H21F2N3O5S
